US07074819B2
Step 7) Synthesis of (3RS,4SR)-4-{4-{2-{4-{[3,5-bis(t-butyl)phenyl]methyl}piperazinyl}ethoxy}phenyl}-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman
(3RS,4SR)-4-{4-{2-{4-{[3,5-Bis(t-butyl)phenyl]methyl}piperazinyl}ethoxy}phenyl}-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman (150 mg, 0.21 mmol) was dissolved in methanol (1.5 ml), 6N-HCl (2 ml) was added portionwise thereto, and the mixture was stirred at 50–60° C. for 2 hours. The reaction solution was diluted with dichloromethane, which was then basified with saturated sodium bicarbonate solution. This solution was washed with water, dried over sodium sulfate, and filtered. The filtrate was evaporated under reduced pressure, and the concentrate thus obtained was subjected to silica gel column chromatography (dichloromethane:methanol=40:1) to give 75 mg (yield: 54%) of a pale yellow solid.

reactant | (3RS,4SR)-4-{4-{2-{4-{[3,5-Bis(t-butyl)phenyl]methyl}piperazinyl}ethoxy}phenyl}-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman | 0.21 mmol, 150 mg | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)CN1CCN(CC1)CCOC1=CC=C(C=C1)C1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C47H62N2O6
reactant | HCl | 2 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3RS,4SR)-4-{4-{2-{4-{[3,5-bis(t-butyl)phenyl]methyl}piperazinyl}ethoxy}phenyl}-7-hydroxy-3-(4-hydroxyphenyl)-3-methylchroman | 75 mg, yield: 54% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)CN1CCN(CC1)CCOC1=CC=C(C=C1)C1C(COC2=CC(=CC=C12)O)(C)C1=CC=C(C=C1)O | C43H54N2O4
